US06953806B2
A stirred solution of 0.75 g (2.47 mmol) trans-methyl-[4-(2-oxo-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester in 15 ml of methanol was cooled to 0-5° C. 0.14 g (3.7 mmol) of sodium borohydride were added in four equal portions, at intervals of 10 minutes. Stirring was continued for 1 hour at room temperature. Afterwards, a 1N aqueous hydrochloric acid solution was dropped into the solution until the medium was acidic; it was then made neutral by addition of aqueous sodium bicarbonate solution. The reaction mixture was subsequently extracted 3 times with 25 ml of dichloromethane. The combined organic phases were dried over magnesium sulfate and evaporated under reduced pressure. The residue obtained was chromatographed on silica gel with a 95:5 v/v mixture of dichloromethane and methanol as the eluent. 0.63 g (83%) trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid benzyl ester were obtained as colorless oil, MS: 306 (MH+).

reactant | trans-methyl-[4-(2-oxo-ethyl)-cyclohexylmethyl]-carbamic acid benzyl ester | 2.47 mmol, 0.75 g | C(C1=CC=CC=C1)OC(N(C[C@@H]1CC[C@H](CC1)CC=O)C)=O | C18H25NO3
reactant | sodium borohydride | 3.7 mmol, 0.14 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid benzyl ester | 0.63 g, 83% | C(C1=CC=CC=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CCO)=O | C18H27NO3
